US06184236B2
The procedure of example 79c was followed, using 3-phenylpropionic acid and serinol. At the end of the reaction, the DMF was evaporated and CH2Cl2 was added to the residue. The white crystalline material was collected and gave pure N-(2-hydroxy-1-hydroxymethyl-ethyl)-3-phenyl-propionamide as a white solid (56%, MS: m/e=224.2 (M+H+)).

reactant | 3-phenylpropionic acid | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | serinol | NC(CO)CO | C3H9NO2
product | N-(2-hydroxy-1-hydroxymethyl-ethyl)-3-phenyl-propionamide | OCC(CO)NC(CCC1=CC=CC=C1)=O | C12H17NO3
